US07605118B2
1-cyclooct-3-enyl-2-methylpropan-1-one
Obtained according to the synthetic procedure of Example 1 from cyclooctene (150 g, 1.36 mol), isobutyric anhydride (430.3 g, 2.72 mol) and zinc bromide (30.6 g, 0.14 mol) in 33% yield. Boiling point 85° C./80 mbar).

reactant | cyclooctene | 1.36 mol, 150 g | C1=CCCCCCC1 | C8H14
reactant | isobutyric anhydride | 2.72 mol, 430.3 g | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
catalyst | zinc bromide | 0.14 mol, 30.6 g | [Br-].[Zn+2].[Br-]
product | 1-cyclooct-3-enyl-2-methylpropan-1-one | 33% yield | C1(CC=CCCCC1)C(C(C)C)=O | C12H20O
